US08222245B2
1,1-Dimethylethyl 9-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of 1,1-dimethylethyl 9-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (Preparation 65) (500 mg, 1.627 mmol), 3-chloro-4-[(1-methylethyl)oxy]benzoic acid (384 mg, 1.790 mmol), EDC (468 mg, 2.440 mmol) and HOBT (299 mg, 1.952 mmol) in DMF (5 ml) was stirred at RT overnight then heated at 120° C. for 3 hrs. The reaction mixture was cooled, diluted with EtOAc/water and the organics dried over magnesium sulfate and evaporated. Purified by flash chromatography eluting with EtOAc/iso-hexane 1:3 to give the title compound (320 mg) as a white solid. MS (ES): C25H2835ClN3O5 requires 485; found 486 [M+H]+.

reactant | 1,1-dimethylethyl 9-[(hydroxyamino)(imino)methyl]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.627 mmol, 500 mg | ONC(C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)=N | C15H21N3O4
reactant | 3-chloro-4-[(1-methylethyl)oxy]benzoic acid | 1.790 mmol, 384 mg | ClC=1C=C(C(=O)O)C=CC1OC(C)C | C10H11ClO3
reactant | EDC | 2.440 mmol, 468 mg
reactant | HOBT | 1.952 mmol, 299 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc water | CCOC(=O)C.O
product | 1,1-Dimethylethyl 9-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 320 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C25H28ClN3O5
